US08198272B2
[1,2,4]Triazolo[4,3-a]pyridin-3-ylamine hydrobromide
2-Hydrazinopyridine (654 mg) was dissolved in a mixture of EtOH and water (7.5/1.5 ml) at RT while stirring. Subsequently, cyanogen bromide solution (666 mg dissolved in a mixture of EtOH/water 1.5/0.3 ml) was added dropwise while stirring. After stirring at RT for 6 h, the solvent was drawn off, and the residue was taken up in water and freeze-dried. 1.3 g of the title compound were obtained. LC-MS rt: 0.15 min [M+H]+: 135.3 (met. a)

reactant | 2-Hydrazinopyridine | 654 mg | N(N)C1=NC=CC=C1 | C5H7N3
reactant | cyanogen bromide | N#CBr | CBrN
solvent | EtOH | CCO | C2H6O
solvent | water | 1.5 ml | O | H2O
solvent | EtOH water | CCO.O
product | [1,2,4]Triazolo[4,3-a]pyridin-3-ylamine hydrobromide | 1.3 g | Br.N=1N=C(N2C1C=CC=C2)N | InChI=1S/C6H6N4.BrH/c7-6-9-8-5-3-1-2-4-10(5)6;/h1-4H,(H2,7,9);1H
